US09388161B2
A 100-mL round-bottom flask equipped with a balloon filled with air was charged with 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (0.300 g, 1.06 mmol), (4-carbamoylphenyl)boronic acid (0.437 g, 2.65 mmol), copper acetate (0.386 g, 2.12 mmol), pyridine (1 mL), dichloromethane (40 mL), and 4 Å molecular sieves (4.0 g). The resulting mixture stirred for 3 days at room temperature. The reaction mixture was filtered through a pad of Celite, and the filtrate was concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with 20-25% ethyl acetate-petroleum ether) to afford 4-[[(2S)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yl]oxy]benzamide (0.148 g, 35%) as a yellow oil. MS (ESI, pos. ion) m/z 403, 405 [M+H]+.

reactant | 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 1.06 mmol, 0.300 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | (4-carbamoylphenyl)boronic acid | 2.65 mmol, 0.437 g | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper acetate | 2.12 mmol, 0.386 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-[[(2S)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yl]oxy]benzamide | 0.148 g, 35% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)Br)OC1=CC=C(C(=O)N)C=C1)C | C19H19BrN2O3
